US06559166B1
1-[2-(2,4-Difluorophenyl)ethyl]-4-[4-(1,2,4-triazol-1-yl)phenylsulphonyl]piperidine
A mixture of 1,2,4-triazole (0.175 g, 2.5 mmol), 4-(4-bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine (0.54 g, 1.2 mmol), copper bronze (80 mg) and sodium hydride (60%, 100 mg, 2.5 mmol) in NMP (3 ml) was heated under nitrogen at 160° C. for 16 h while stirring. The hot solution was poured into water/CH2Cl2 (10/20 ml) and further extracted into CH2Cl2. The combined organic phase was washed with water, dried (Na2SO4) and evaporated to yield a syrup. Column chromatography [silica, hexane/EtOAc (1:1)] yielded 250 mg of crystalline material. δH (360 MHz, CDCl3) 1.68-1.79 (2H, m), 1.98-2.05 (4H, m), 2.50-2.54 (2H, m), 2.71-2.75 (2H, m), 2.90-2.99 (1H, m), 3.05-3.09 (2H, m), 6.72-6.81 (2H, m), 7.09-7.15 (1H, m), 7.93-8.04 (4H, m), 8.17 (1H, s), 8.72 (1H, s).

reactant | 1,2,4-triazole | 2.5 mmol, 0.175 g | N1N=CN=C1 | C2H3N3
reactant | 4-(4-bromophenylsulphonyl)-1-[2-(2,4-difluorophenyl)ethyl]piperidine | 1.2 mmol, 0.54 g | BrC1=CC=C(C=C1)S(=O)(=O)C1CCN(CC1)CCC1=C(C=C(C=C1)F)F | C19H20BrF2NO2S
reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | water CH2Cl2 | 20 ml | O.C(Cl)Cl
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
catalyst | copper bronze | 80 mg | [Cu] | Cu
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 1-[2-(2,4-Difluorophenyl)ethyl]-4-[4-(1,2,4-triazol-1-yl)phenylsulphonyl]piperidine | 250 mg | FC1=C(C=CC(=C1)F)CCN1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)N1N=CN=C1 | C21H22F2N4O2S
